US08124606B2
To tert-butyl 4-(2-methyl-4-(methylcarbamoyl)phenyl)piperazine-1-carboxylate (1.90 g, 5.70 mmol) was added Hydrochloric acid solution (17.10 ml, 68.4 mmol) in dioxane at 23° C. The reaction was stirred at 23° C. for 30 min. The resulting suspension was diluted with Et20 (20 mL), filtered, rinsed with Et2O (3×10 mL), and the resulting solid was dried in vacuo to provide N,3-dimethyl-4-(piperazin-1-yl)benzamide dihydrochloride (1.70 g, 5.55 mmol, 97% yield) as an off-white, hygroscopic solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.28 (s, 3H) 2.72-2.79 (m, 3H) 3.05-3.14 (m, 4H) 3.17-3.28 (m, 4H) 7.06 (d, J=8.34 Hz, 1H) 7.64-7.68 (m, 1H) 7.68-7.70 (m, 1H) 8.29-8.39 (m, 1H) 9.36 (br. s., 2H). ESI-MS: m/z 234.2 (M+H)+.

reactant | tert-butyl 4-(2-methyl-4-(methylcarbamoyl)phenyl)piperazine-1-carboxylate | 5.70 mmol, 1.90 g | CC1=C(C=CC(=C1)C(NC)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H27N3O3
reactant | Hydrochloric acid | 68.4 mmol, 17.10 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N,3-dimethyl-4-(piperazin-1-yl)benzamide dihydrochloride | 5.55 mmol, 1.70 g, 97% yield | Cl.Cl.CNC(C1=CC(=C(C=C1)N1CCNCC1)C)=O | InChI=1S/C13H19N3O.2ClH/c1-10-9-11(13(17)14-2)3-4-12(10)16-7-5-15-6-8-16;;/h3-4,9,15H,5-8H2,1-2H3,(H,14,17);2*1H
